US04342825
2(a) 4-(1,1,2-trifluoro-2-chloroethylthio)toluene
A hot solution (60° C.) of 248 g (2 moles) of 4-methylthiophenol, 44.8 g of 85% potassium hydroxide, and 280 ml of acetone were placed in an autoclave. An amount of 256 g (2.2 moles) of trifluorochloroethylene was introduced in 1 h under pressure with agitation at 50°-55° C. After 1 h the reaction mixture was poured out in a solution of 1200 ml of water and 80 g (2 moles) of sodium hydroxide. The final product was extracted with ether, the ether solution was dried, and the solvent was evaporated. The residual oil was distilled at 120° C./1 mm.

reactant | 4-methylthiophenol | 2 moles, 248 g | CC1=CC=C(C=C1)S | C7H8S
reactant | potassium hydroxide | 44.8 g | [OH-].[K+]
reactant | trifluorochloroethylene | 2.2 moles, 256 g | FC(=C(Cl)F)F | C2ClF3
reactant | sodium hydroxide | 2 moles, 80 g | [OH-].[Na+]
solvent | water | 1200 ml | O | H2O
solvent | acetone | 280 ml | CC(=O)C | C3H6O
product | 4-(1,1,2-trifluoro-2-chloroethylthio)toluene | FC(C(Cl)F)(SC1=CC=C(C=C1)C)F | C9H8ClF3S
